US06860928B2
A solution of 1,3-bis(4-aminophenoxy)-2,2-bis[(4-aminophenoxy)methyl]propane (5.00 grams, 10.0 mmol; prepared as described in Part C of this Example) in 120 milliliters of a mixture of dry acetone and tetrahydrofuran (1:1 (v/v)) was added dropwise to a solution of cyanuric chloride (7.75 grams, 42.0 mmol: obtained from Aldrich Chemical Co.) in 200 milliliters of dry acetone at −10° C. This mixture was stirred for 1 hour at −10° C. and was then added, with Na2CO3 (4.45 grams, 42.0 mmol), to 1.5 liters of cold water to give a precipitate. The white solid was filtered off, dried, and dissolved in dichloromethane to remove insoluble material (hydrolyzed product). The resulting solution was filtered over CELITE and dried with magnesium sulfate. Volatiles were removed under reduced pressure, and the residue was dried under vacuum to afford pure 1,3-bis(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl) amino]phenoxy)-2,2-bis[(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl)amino]phenoxy)methyl]propane (9.20 grams, 8.42 mmol, 84 percent yield) as a white solid: softening point 143-145° C.; mp 240-250° C.: IR (KBr) 3366, 3268, 3123, 2947, 1609, 1550, 1506, 1386, 1318, 1219, 1167, 1019, 846, 829, 794 cm−1; 1H NMR (400 MHz, CDCl3) δ7.47 (s, 4H), 7.40 (d, 8H, 3J=9.0 Hz), 6.96 (d, 8H, 3J=9.0 Hz), 4.36 (s, 8H); 13C NMR (100 MHz, CDCl3) δ171.46, 164.44, 156.93, 129.12, 123.93, 115.39, 66.90, 45.11; MS (FAB, 3-nitrobenzyl alcohol) m/e 1092.7; Anal. Calcd for C41H28Cl8N16O4: C, 45.08; H, 2.58; N, 20.52. Found: C, 45.07; H, 2.58; N, 20.12.

reactant | 1,3-bis(4-aminophenoxy)-2,2-bis[(4-aminophenoxy)methyl]propane | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)(COC2=CC=C(C=C2)N)COC2=CC=C(C=C2)N)C=C1 | C29H32N4O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | cyanuric chloride | 42.0 mmol, 7.75 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | Na2CO3 | 42.0 mmol, 4.45 grams | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 200 milliliters | CC(=O)C | C3H6O
solvent | water | 1.5 liters | O | H2O
product | 1,3-bis(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl) amino]phenoxy)-2,2-bis[(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl)amino]phenoxy)methyl]propane | 8.42 mmol, 9.20 grams, 84 percent yield | ClC1=NC(=NC(=N1)Cl)NC1=CC=C(OCC(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)C=C1 | C41H28Cl8N16O4
